US05359098
6-[9-(Dimethylamino)nonoxy]-2-phenyl-4H-1-benzopyran-4-one
The compound was prepared by a method similar to Example 2 from 6-hydroxyflavone, 1,9-dibromononane and dimethylamine: mp 52°-53° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1,9-dibromononane | BrCCCCCCCCCBr | C9H18Br2
reactant | dimethylamine | CNC | C2H7N
product | 6-[9-(Dimethylamino)nonoxy]-2-phenyl-4H-1-benzopyran-4-one | CN(CCCCCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1)C | C26H33NO3
